US07696223B2
c) [(2,3-Dichloro-7-cyano-4-hydroxy-1-phenethyl-1H-pyrrolo[2,3-c]pyridine-5-carbonyl)-amino]-acetic acid
Prepared in analogy to that of Example 1(e) from 2,3-dichloro-7-cyano-4-hydroxy-1-phenethyl-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester, glycine and NaOMe/HOMe. The title compound, ESI MS (m/z): 433 (M+H)+.

reactant | 2,3-dichloro-7-cyano-4-hydroxy-1-phenethyl-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=C2C(=C(N1)C#N)N(C(=C2Cl)Cl)CCC2=CC=CC=C2)O | C19H15Cl2N3O3
reactant | glycine | NCC(=O)O | C2H5NO2
reactant | NaOMe HOMe | C[O-].[Na+].CO
product | [(2,3-Dichloro-7-cyano-4-hydroxy-1-phenethyl-1H-pyrrolo[2,3-c]pyridine-5-carbonyl)-amino]-acetic acid | ClC1=C(C=2C(=C(N=C(C2O)C(=O)NCC(=O)O)C#N)N1CCC1=CC=CC=C1)Cl | C19H14Cl2N4O4
